US04237055
1-t-Butyldiphenylsiloxy-6,6-ethylenedioxy-2-methyl-heptane (75.35 g) in acetone (2 l) is treated with 10% hydrochloric acid (75 ml) and the solution is allowed to stir at room temperature for 21/2 hours. The reaction mixture is neutralized with a saturated sodium bicarbonate solution (150 ml), the salt is removed by filtration and the solvent is removed in vacuo. The resulting residue is partitioned between ether and water, the aqueous phase is extracted with ether, and the combined ether extracts are washed with brine and dried (Na2SO4). The solvent is removed in vacuo to give the crude product which is purified via silica gel chromatography (5% EtOAc/hexane) to give 1-t-butyldiphenylsiloxy-2-methyl-6-oxo-heptane (61.95 g, 92%); ir (neat) 5.85 μ (C=O); nmr (CDCl3,δ), 0.92 (d, 3H, CH3CH<), 1.05 [s, (CH3)3 ], 2.07 (s, 3H, CH3C=O), 3.45 (d, 2H, CHCH2O), 7.2-7.8 (m, 10H, 2φ).

reactant | 1-t-Butyldiphenylsiloxy-6,6-ethylenedioxy-2-methyl-heptane | 75.35 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC1(C)OCCO1)C | C26H38O3Si
reactant | hydrochloric acid | 75 ml | Cl | ClH
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | acetone | 2 l | CC(=O)C | C3H6O
product | 1-t-butyldiphenylsiloxy-2-methyl-6-oxo-heptane | 61.95 g, 92% | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC(CCCC(C)=O)C | C24H34O2Si
